USRE039128E1
Step 1. (R)-1-Ethylcarbamoylpiperidine-2-carboxylic acid
L-Pipecolinic acid (0.50 g, 0.004 mole) in dry dichloromethane (10 ml) was cooled to 0° C. under argon and treated with triethylamine (0.65 ml. 0.0046 mole) followed dropwise by ethyl chloroformate (0.37 ml, 0.004 mole) in dry dichloromethane (2 ml). The mixture was stirred overnight at room temperature after which it was diluted with dichioromethane, washed with 5M hydrochloric acid and the organic layer dried (magnesium sulfate) and evaporated in vacuo to afford the title compound 0.60 g (77%) as an orange oil; 1H NMR (CDCl3) 1.12-1.84 (8H, m), 2.15-2.40 (1H, m), 2.88-3.20 (1H, m), 3.90-4.28 (3H, m), 4.77-5.07 (1H, m), 5.68-6.82 (1H, br s),

reactant | L-Pipecolinic acid | 0.004 mole, 0.50 g | C1CCN[C@@H](C1)C(=O)O | C6H11NO2
reactant | triethylamine | 0.0046 mole, 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.004 mole, 0.37 ml | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (R)-1-Ethylcarbamoylpiperidine-2-carboxylic acid | 0.60 g, 77% | C(C)NC(=O)N1[C@H](CCCC1)C(=O)O | C9H16N2O3
